US04724236
(b) 2-Methyl-2-propargyl-malonic acid
187 g (0.88 mol) of diethyl 2-methyl-2-propargyl-malonate are added to a solution of 101 g (1.8 mol) of potassium hydroxide in a mixture of 560 ml of water/ethanol (1:1) and the mixture is refluxed with stirring for 2 hours. After the reaction has ended (monitored by TLC) the mixture is evaporated to dryness in vacuo and the residue is then taken up with in water. The aqueous solution is acidified with 50% sulphuric acid and extracted several times with methylene chloride. The combined extracts are dried, evaporated to dryness in vacuo and a colourless product is obtained, m.p. 135° C.

reactant | diethyl 2-methyl-2-propargyl-malonate | 0.88 mol, 187 g | CC(C(=O)OCC)(C(=O)OCC)CC#C | C11H16O4
reactant | potassium hydroxide | 1.8 mol, 101 g | [OH-].[K+]
solvent | water ethanol | 560 ml | O.C(C)O
product | 2-Methyl-2-propargyl-malonic acid | CC(C(=O)O)(C(=O)O)CC#C | C7H8O4
